US08304419B2
To a solution of 6-chloro-2-fluoro-3-methylphenol (7.67 g, 47.7 mmol) in DMSO (100 ml) was added potassium t-butoxide (1.0 M solution in THF) (50.1 ml, 50.1 mmol) and the mixture was stirred at room temperature for 30 minutes. Next, 1-bromo-3-chloro-5-fluorobenzene (10.0 g, 47.7 mmol) was added and the mixture was heated at 135° C. for 3 days. The reaction mixture was cooled to room temperature, diluted with EtOAc and washed with water. The solvent was removed to give 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (9.54 g, 27.3 mmol, 57% yield) which was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.44 (s, 1H), 7.33-7.40 (m, 1H), 7.27 (t, 1H), 7.07 (s, 1H), 6.95-7.02 (m, 1H), 2.23 (d, 3H).

reactant | 6-chloro-2-fluoro-3-methylphenol | 47.7 mmol, 7.67 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | potassium t-butoxide | 50.1 mmol, 1.0 M, 50.1 ml | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-chloro-5-fluorobenzene | 47.7 mmol, 10.0 g | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 27.3 mmol, 9.54 g, 57% yield | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)C)Cl | C13H8BrCl2FO
